US05663200
48d) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(3,4,5-trimethoxyphenyl)methyl]hexanoic acid
In analogy with Example 44e), 1.526 g of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3,4,5-trimethoxyphenyl)methyl]hexanoic acid in 15.16 ml of DMF are silylated with 2.11 g of tert-butyldimethylchlorosilane and 1.683 g of imidazole. The silyl ester group in the crude product is detached, at RT in 2.5 h, in a mixture consisting of 40.3 ml of methanol, 13.8 ml of THF, 13.8 ml of water and 2.42 g of potassium carbonate. The title compound is purified by being chromatographed twice on silica gel (solvents: hexane, C and J). TLC Rf (A)=0.39. FAB-MS (M+H)+ =618.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3,4,5-trimethoxyphenyl)methyl]hexanoic acid | 1.526 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=C(C(=C1)OC)OC)OC)O)CC1=CC=CC=C1 | C27H37NO8
reactant | tert-butyldimethylchlorosilane | 2.11 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 1.683 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 2.42 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15.16 ml | CN(C)C=O | C3H7NO
solvent | water | 13.8 ml | O | H2O
solvent | THF | 13.8 ml | C1CCOC1 | C4H8O
solvent | methanol | 40.3 ml | CO | CH4O
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(3,4,5-trimethoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=C(C(=C1)OC)OC)OC)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C33H51NO8Si
